US05990101
A 3.9 ml portion of trifluoroacetic acid was added to 776 mg of 2-(N-t-butoxycarbonylamino)methyl-4-methoxycarbonylaminothiazole, followed by stirring at room temperature for 50 minutes. The reagent was evaporated under reduced pressure to obtain a light brown solid, and this solid was then dissolved in 13.5 ml of dichloromethane and 10 ml of a 15% aqueous potassium carbonate solution to adjust the pH of the solution to 10.0. Further, a mixed solution of 2.55 ml of anhydrous acetic acid and 1.27 ml of formic acid was added dropwise over 10 minutes under ice-cooling with vigorous stirring. After adjustment to pH 6 with potassium carbonate, the ice bath was removed, and the solution was then stirred for 30 minutes. After the addition of 100 ml of dichloromethane and 20 ml of distilled water as well as sufficient shaking, the organic layer was separated. After the pH of the aqueous layer was adjusted to 11 with potassium carbonate, extraction was carried out twice with 100 ml of dichloromethane, and the extract was then combined with the above organic layer. Further, the solution was dried (anhydrous magnesium sulfate and anhydrous potassium carbonate), and then filtered. The solvent was then evaporated under reduced pressure to obtain 581 mg of 2-(formylamino)methyl-4-methoxycarbonylaminothiazole as a light yellow powder.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(N-t-butoxycarbonylamino)methyl-4-methoxycarbonylaminothiazole | 776 mg | C(C)(C)(C)OC(=O)NCC=1SC=C(N1)NC(=O)OC | C11H17N3O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | acetic acid | 2.55 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 13.5 ml | ClCCl | CH2Cl2
solvent | formic acid | 1.27 ml | C(=O)O | CH2O2
product | 2-(formylamino)methyl-4-methoxycarbonylaminothiazole | 581 mg | C(=O)NCC=1SC=C(N1)NC(=O)OC | C7H9N3O3S
